US04440941
N-(2-Mercapto-3-trifluoromethylbenzoyl)-N-cyclopentylglycine
N-(2-Acetylthio-3-trifluoromethylbenzoyl)-N-cyclopentylglycine (1.4 g, 3.6 mmol) and 1 N sodium hydroxide solution were stirred 4 hours at room temperature, then acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The organics were washed with water and brine, then dried and concentrated to a yellow gum which solidified on standing. Recrystallization from hexane/ethyl acetate gave a white solid, m.p. 144°-146° C.

reactant | N-(2-Acetylthio-3-trifluoromethylbenzoyl)-N-cyclopentylglycine | 3.6 mmol, 1.4 g | C(C)(=O)SC1=C(C(=O)N(CC(=O)O)C2CCCC2)C=CC=C1C(F)(F)F | C17H18F3NO4S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | N-(2-Mercapto-3-trifluoromethylbenzoyl)-N-cyclopentylglycine | SC1=C(C(=O)N(CC(=O)O)C2CCCC2)C=CC=C1C(F)(F)F | C15H16F3NO3S
